US05017211
A mixture of 3.5 g of 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid and 3.4 ml of thionyl chloride in 20 ml of benzene is heated to reflux temperature for 3 hours together with 2 drops of dimethylformamide. The mixture is then evaporated to dryness and the residue is dissolved in 15 ml of dioxan. The solution is added dropwise at room temperature to a solution of 0.7 g of isopropylamine and 1.1 g of pyridine in 15 ml of dioxan and the reaction mixture is stirred at room temperature for 2.5 hours. Subsequently, the mixture is treated with 400 ml of water, extracted twice with 400 ml of ethyl acetate each time, the organic phases are washed twice with 200 ml of 1N hydrochloric acid each time, thereafter twice with 200 ml of saturated sodium chloride solution each time, and the combined organic phases are dried over anhydrous sodium sulphate and evaporated. The residue is purified by chromatography on silica gel with ethyl acetate/n-hexane (1:2) as the eluent. In this manner there is obtained N-isopropyl-2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzamide which can be recrystallized from ethyl acetate/n-hexane. M.p. 146°-149° C.

reactant | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | 3.5 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H7ClF4N2O4
reactant | thionyl chloride | 3.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | N-isopropyl-2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzamide | C(C)(C)NC(C1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O | C16H14ClF4N3O3
